US07119109B2
a) (R)-4,4,4-Trifluoro-1,3-butanediol
A solution of ethyl (R)-(+)-4,4,4trifluoro-3-hydroxybutyrate (3.12 g, 16.8 mmol) in diethyl ether (8 mL) was added to a 0–5° C. suspension of lithium aluminium hydride (1.01 g, 26.6 mmol) in diethyl ether (17 mL) over 25 minutes. Upon complete addition, the mixture was stirred at ambient temperature for 20 h. The mixture was cooled to 0–5° C. and quenched by dropwise addition of 3N HCl (17 mL), followed by stirring at ambient temperature for 3 h. The liquid portion was decanted away and the salts were washed with additional diethyl ether. The combined organic portions were washed (brine), dried, and evaporated to give the product as a cloudy, colourless oil (2.34 g, 96%).

reactant | ethyl (R)-(+)-4,4,4trifluoro-3-hydroxybutyrate | 16.8 mmol, 3.12 g | FC([C@@H](CC(=O)OCC)O)(F)F | C6H9F3O3
reactant | lithium aluminium hydride | 26.6 mmol, 1.01 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 8 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 17 mL | C(C)OCC | C4H10O
product | (R)-4,4,4-Trifluoro-1,3-butanediol | 2.34 g, 96% | FC([C@@H](CCO)O)(F)F | C4H7F3O2
